US06734203B2
Five drops of concentrated sulfuric acid was added to a solution of methyl 4,7-dihydro-5-(2-methoxyethyl)amino-4,7-dioxobenzo[b]thiophene-2-carboxylate (1.2 g) in acetic anhydride (20 ml) and the mixture was stirred at room temperature for 1 hour. Methanol (20 ml) was gradually added to the reaction solution and then the solvent was evaporated. Water was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine and then dried over anhydrous sodium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography (elution with ethyl acetate-hexane 1:1 solution) to give methyl 5-[N-acetyl-N-(2-methoxyethyl)amino]-4,7-dihydro-4,7-dioxobenzo[b]thiophene-2-carboxylate (0.39 g) as a reddish brown powder.

reactant | methyl 4,7-dihydro-5-(2-methoxyethyl)amino-4,7-dioxobenzo[b]thiophene-2-carboxylate | 1.2 g | COCCNC=1C(C2=C(SC(=C2)C(=O)OC)C(C1)=O)=O | C13H13NO5S
reactant | Methanol | 20 ml | CO | CH4O
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | Five drops | S(O)(O)(=O)=O | H2O4S
product | methyl 5-[N-acetyl-N-(2-methoxyethyl)amino]-4,7-dihydro-4,7-dioxobenzo[b]thiophene-2-carboxylate | 0.39 g | C(C)(=O)N(CCOC)C=1C(C2=C(SC(=C2)C(=O)OC)C(C1)=O)=O | C15H15NO6S
